US07910613B2
2-Phenyl-[1,3]dithiane (intermediate for 5-furan-3-yl-4-phenyl-thiazol-2-ylamine)
To a solution of benzaldehyde (15.0 g, 141 mmol) in chloroform (150 mL), propane-1,3-dithiol (16.9 g, 155 mmol) and boron trifluoride etherate (26.1 g, 183 mmol) were added. The reaction mixture was stirred at ambient temperature for 24 h, and was then poured into ice-cold aqueous sodium hydroxide (10%) and extracted with chloroform. The combined chloroform extracts were washed with water, dried over sodium sulfate, concentrated and purified by flash column chromatography using 1% ethyl acetate in hexane as eluent. Yield: 21.2 g, 77%.

reactant | benzaldehyde | 141 mmol, 15.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | propane-1,3-dithiol | 155 mmol, 16.9 g | C(CCS)S | C3H8S2
reactant | boron trifluoride etherate | 183 mmol, 26.1 g | B(F)(F)F.CCOCC
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Phenyl-[1,3]dithiane | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
